US04871746
A solution of 0.48 g, of diethyl N-[N-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]-pyrimidin-6-ylmethyl)-N-trifluoroacetyl-4-aminomethylbenzoyl]-glutamate in 10 mL of 1N sodium hydroxide was stirred at 25° C. for 72 hours. To the reaction mixture was added charcoal and the suspension filtered through Celite. The filtrate was rendered acidic with acetic acid and stored at 0° C. for 4 hours. The solid which formed was collected, and washed sequentially with water, ethanol, and ether to give 0.241 g (76% yield) of N-[N-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-ylmethyl)-4-aminomethylbenzoyl]-glutamic acid; mp 263° C. (dec); 1H NMR (Me2SO d6) delta 1.8-2.25 (m, 4H), 2.27 (t, 2H, J=6.95 Hz), 2.73-3.00 (m, 2H), 3.28-3.31 (m, 1H), 4.05 (s, 2H), 4.14 (s, 2H), 4.21 (s, 2H), 4.36-4.41 (m, 1H), 7.41-7.7.45 (m, 2H, AA'BB'), 7.80-7.82 (m, 2H, AA'BB'), 8.61 (s, 1H). Anal. Calcd for C21H26N6O6.H2O: C, 53.95; H, 5.82; N, 17.97. Found: C, 54.07; H, 5.48; N, 17.76.

reactant | diethyl N-[N-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]-pyrimidin-6-ylmethyl)-N-trifluoroacetyl-4-aminomethylbenzoyl]-glutamate | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)NCC(C2)CN(C(C(F)(F)F)=O)CC2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2)O | C32H41F3N6O8
reactant | charcoal | C | CH4
solvent | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
product | N-[N-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-ylmethyl)-4-aminomethylbenzoyl]-glutamic acid | 0.241 g, 76% yield | NC=1N=C(C2=C(N1)NCC(C2)CNCC2=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C2)O | C21H26N6O6
